US08017611B2
4-(2-Chloroethyl)morpholine hydrochloride (101 mg) was added to a stirred solution 3-(1,3-benzoxazol-2-yl)-5-(1H-pyrazol-4-yl)pyridin-2-amine (150 mg, 0.54 mol) and potassium carbonate (164 mg, 1.19 mol) dissolved in DMA (1 ml) over a period of 5 minutes. The resulting solution was stirred at 120° C. for 7 hours. The mixture was filtered. The reaction mixture was purified by preparative HPLC using a Waters X-Terra reverse-phase column (C-18, 5 microns silica, 19 mm diameter, 100 mm length, flow rate of 40 ml/minute) and decreasingly polar mixtures of water (containing 1% acetic acid) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to afford 3-(1,3-benzoxazol-2-yl)-5-[1-(2-morpholinoethyl)pyrazol-4-yl]pyridin-2-amine (134 mg. NMR Spectrum: (CDCl3) 2.27-2.58 (m, 4H), 2.88 (t, 2H), 3.68-3.77 (m, 4H), 4.30 (t, 2H), 6.90 (bs, 2H), 7.34-7.41 (m, 2H), 7.58-7.63 (m, 1H), 7.73 (s, 1H), 7.74-7.77 (m, 1H), 7.79 (s, 1H), 8.38 (d, 1H), 8.39 (d, 1H); Mass spectrum: M+H+ 391.

reactant | 4-(2-Chloroethyl)morpholine hydrochloride | 101 mg | Cl.ClCCN1CCOCC1
reactant | 3-(1,3-benzoxazol-2-yl)-5-(1H-pyrazol-4-yl)pyridin-2-amine | 0.54 mol, 150 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NNC2)N | C15H11N5O
reactant | potassium carbonate | 1.19 mol, 164 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
product | 3-(1,3-benzoxazol-2-yl)-5-[1-(2-morpholinoethyl)pyrazol-4-yl]pyridin-2-amine | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2)CCN2CCOCC2)N | C21H22N6O2
